Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___
 
Chief Complaint:
dysuria
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
 Ms. ___ is a ___ year old woman with a complex medical 
history including HTN, paroxysmal AF, C. diff colitis and 
cadaveric renal transplant ___ who presents with a UTI with Cr 
at baseline. She reports she had dysuria a few weeks ago and 
spoke to her kidney doctor who told her that she should try not 
to take antibiotics, the symptoms disappeared but then returned 
last week so she was instructed to present to ED for admission. 
She reports a temperature elevation to 100.1 last night at her 
nursing home. She is having acute on chronic lower abdominal 
pain as well as dysuria. Also complains of multiple chronic MSK 
symptoms including bilateral shoulder pain, back pain radiating 
down her right leg, and bilateral foot pain. There is no acute 
change in these other chronic pain symptoms. Denies chest pain, 
dyspnea, vomiting, diarrhea, blood per rectum, melena, vaginal 
bleeding.  
 
 In the ED, initial vitals were: T97.3 HR96 BP135/78 RR18 
SaO2100% RA  
 - Exam notable for: Non-tender, non-distended abdomen, obese  
 No CVAT  
 - Labs notable for:9.5> 11.9/38.1<227  
 Cr of 1.3 at baseline, UA: Leuk Lg, Bld Neg, Nitr Pos, Prot Tr, 
Glu Neg, Ket Neg, RBC 2, WBC 66, Bact Few, Epi  
 <1  
 
 - Imaging was notable for:  
 Normal renal transplant ultrasound.  
 - Transplant was consulted: who recommended continue immune 
suppression and start antibiotics for UTI  
 - Patient was given:  
 ___ 17:22 PO/NG Acetaminophen 1000 mg  
 ___ 22:16 IV Clindamycin 600 mg  
 - Vitals prior to transfer: T97.3, HR82, BP144/80, RR18 
SaO2100% RA  
 Upon arrival to the floor, patient reports she is feeling 
generally well except for the chronic dysuria as above.  
 
Past Medical History:
RENAL:
# s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
1.0-1.2   
# Acute interstitial nephritis ___ presumably from ranitidine 
 
# Polyneuropathy in renal disease  
# Anemia  of chronic disease

CARDIAC:
# CAD: NSTEMI ___, s/p cardiac cath without intervention 
# Paroxysmal atrial fibrillation 
# Hypertension
# Hyperlipidemia  
# Diastolic dysfunction  
# H/o DVT  

ENDOCRINE:
# Hypothyroidism  
# Osteopenia ___ chronic steroid use

SURGERY
# s/p craniotomy for ICH (?intracranial aneurysm)  
# s/p foot surgeries  

GI/HEPATOLOGY
# GERD

SURGERY
# Osteonecrosis of bilateral feet c/b osteomyelitis 
# osteonecrosis of L hip requiring surgical intervention and 
girdlestone procedure
# s/p cholecystecomy, s/p appendectomy  
# small intestinal adenoma with endoscopic resection c/b bowel 
perforation requiring ex-lap in ___  
# Cataract surgery  

INFECTIOUS
# MRSA osteomyelitis ___  
# Hx of c.diff 2 and ___ yrs ago  
# recurrent UTI (lower urinary tract infection)  

PSYCH
# Panic disorder  

HEENT
# Hearing loss of both ears   

MISC
# Chronic low back pain w/ sciatica 
 
Social History:
___
Family History:
 Father died ___ CAD at age ___.  
 Mother died young of unknown causes.  
 
Physical Exam:
ADMISSION EXAM
===================
Vital Signs: T___ PO BP123 / 64R Lying HR75 RR18 SaO299%Ra  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 Neck: Supple. JVP not elevated  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: bibasilar crackles  
 Abdomen: Soft, mild tenderness throughout, non-distended, bowel 
sounds present, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused  
 Neuro: Moves right ___ and bilateral UEs normally  

DISCHARGE EXAM
===================
Vital Signs: 97.7  ___  18  95%Ra  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 Neck: Supple. JVP not elevated  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: bibasilar crackles  
 Abdomen: Soft, mild tenderness throughout, non-distended, bowel 
sounds present, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused  
 Neuro: Moves right ___ and bilateral UEs normally  

 
Pertinent Results:
ADMISSION LABS
===================
___ 04:55PM   WBC-9.5# RBC-4.00 HGB-11.9# HCT-38.1 MCV-95 
MCH-29.8 MCHC-31.2* RDW-15.6* RDWSD-54.3*
___ 04:55PM   NEUTS-64.5 ___ MONOS-7.0 EOS-1.6 
BASOS-0.5 IM ___ AbsNeut-6.11* AbsLymp-2.42 AbsMono-0.66 
AbsEos-0.15 AbsBaso-0.05
___ 04:55PM   PLT COUNT-227#
___ 04:55PM   ALBUMIN-3.6
___ 04:55PM   LIPASE-24
___ 04:55PM   ALT(SGPT)-12 AST(SGOT)-34 ALK PHOS-90 TOT 
BILI-0.2
___ 04:55PM   GLUCOSE-88 UREA N-30* CREAT-1.3* SODIUM-139 
POTASSIUM-4.8 CHLORIDE-101 TOTAL CO2-24 ANION GAP-19
___ 05:09PM   LACTATE-1.6
___ 07:25PM URINE  BLOOD-NEG NITRITE-POS PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 07:25PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 07:25PM URINE  MUCOUS-RARE

DISCHARGE LABS
===================
___ 04:32AM BLOOD WBC-5.9 RBC-3.39* Hgb-10.0* Hct-33.5* 
MCV-99* MCH-29.5 MCHC-29.9* RDW-15.6* RDWSD-56.9* Plt ___
___ 04:32AM BLOOD ___ PTT-27.7 ___
___ 04:32AM BLOOD Glucose-98 UreaN-36* Creat-1.5* Na-140 
K-4.0 Cl-107 HCO3-25 AnGap-12
___ 04:32AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.9

MICROBIOLOGY
===================
___ 7:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL OF TWO COLONIAL 
MORPHOLOGIES. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------     4 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

___ 7:33 pm STOOL     CONSISTENCY: SOFT      Source: Stool. 


                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ @ 0827 ON 
___ - ___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 

___ 4:55 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): NO GROWTH TO DATE

IMAGING/STUDIES
===================
RENAL TRANSPLANT ULTRASOUND ___ IMPRESSION:   
Normal renal transplant ultrasound. 

 
Brief Hospital Course:
___ year old female with a complicated past medical history 
including ESRD status post renal transplant, osteonecrosis of L 
hip s/p girdlestone procedure w/ chronic low back pain, 
wheelchair bound, CAD, hx C diff presented to ___ with 2 week 
hx worsening dysuria found to have UTI. Patient received 1 day 
of clindamycin given multiple antibiotic allergies. ID was 
consulted for assistance in antibiotic therapy selection, and 
patient was switched to cefpodoxime (D1 = ___ given 
previous tolerance of this medication. Urine cultures grew E 
coli that was sensitive to cephalosporins. Patient was continued 
on cefpodoxime for planned 14-day course. Her course was 
complicated by development of diarrhea, c diff colitis. Patient 
was started on PO vancomycin on ___ for planned 28d course 
(to continue 2 weeks following completion of cefpodoxime.

# UTI: Patient presented with dysuria and was given clinda in 
ED. She had a history of drug resistant E.coli in ___ and has 
many allergies including PCN, cephalexin. Per ID, has tolerated 
CTX in the past, however no peripheral access. Outpatient urine 
cultures from Dr. ___. Admission urine cultures 
growing E coli sensitive to ceftriaxone. Post void residuals 
approx. 300cc; likely contributing to recurrent UTIs. Blood 
cultures negative. Patient continued on cefpodoxime for planeed 
14-d course (D1 = ___. Referred for outpatient urology 
follow up for urinary retention. 
 
 #C Diff Colitis: Patient reported loose stools starting on 
admission after initiation of antibiotics with clindamycin. 
Stool studies C diff positive, and given change in stools, ID 
recommended treatments as active infection continued 2 weeks 
following termination of UTI antibiotics. Patient began on PO 
vancomycin 125mg Q6H (D1 = ___ for planned 28d course. 

 # S/P renal transplant: s/p cadaveric Renal transplant: 
___, ESRD ___ chronic reflux nephropathy, on prednisone and 
tacrolimus; baseline Cr 1.3. Renal transplant ultrasound normal. 
Daily tacro levels checked. Patient discharged on tacrolimus 
0.5mg BID and prednisone 5mg QD as previous immunosuppression 
regimen.  
 
 # Chronic Pain: Due to scoliosis and left hip removal/R hip 
pain with hx osteonecrosis. Patient on fentanyl patch at 37.5mcg 
Q72H. On admission, patient felt very discouraged about pain 
management and plans to go to ___ for a second opinion at 
neurology clinic. Had recent hospitalization for accidental 
overdose of pain medications, but also very tolerant to 
narcotics. Increased fentanyl to 50mcg Q72H with significant 
improvement in pain. Lidocaine 5% gel PRN continued. Also 
complaining of bilateral shoulder pain without history of 
trauma. Recommended outpatient orthopedic follow up. Can 
consider addition of nortripyline per outpatient pain note.
 
 # Hypertension - Continued home metoprolol stable  
 
 # Depression - Patient reported that she is discouraged with 
pain management and has passive SI. Denies any plan to hurt or 
kill herself but wishes she was dead, asks about going on 
hospice/palliative care. Social work consulted. Continued on 
duloxetine 30mg PO QD. Passive SI improved when pain better 
controlled. 
 

TRANSITIONAL ISSUES
=======================
[ ] UTI Antibiotic: Cefpodoxime 400mg Q12H (D1 = ___ for 
planned 14-day course (last day ___
[ ] C Diff Antibiotic: Vancomycin 125mg PO Q6H (D1 = ___ 
for planned 28-day course (last day ___
[ ] Increased fentanyl patch to 50mcg Q72H for treatment of 
chronic pain
[ ] Endorsing passive SI due to poor pain control on admission, 
did not report when fentanyl patch increased. 
[ ] Complaining of ___ month hx bilateral shoulder rotator cuff 
pain. Recommended discussion at outpatient orthopedic apt in 
___.
[ ] Post-void residuals 290-320 during admission. Likely leading 
to recurrent UTI. Recommend outpatient urology follow up for 
urinary retention. 
[ ] Please check post-void residuals as outpatient. Consider 
straight cath TID if patient agrees. 

CODE STATUS: DNR/DNI
EMERGENCY CONTACT: Friend ___ ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Tacrolimus 0.5 mg PO Q12H 
2. Acetaminophen 1000 mg PO Q8H 
3. Acyclovir 400 mg PO Q12H 
4. Fentanyl Patch 37.5 mcg/h TD Q72H 
5. Levothyroxine Sodium 88 mcg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 40 mg PO BID 
9. Ondansetron 4 mg PO Q6H:PRN nausea 
10. PredniSONE 5 mg PO DAILY 
11. Rosuvastatin Calcium 40 mg PO QPM 
12. Sucralfate 1 gm PO TID:PRN stomach upset 
13. Calcitriol 0.5 mcg PO DAILY 
14. Aspirin 81 mg PO DAILY 
15. DULoxetine 30 mg PO DAILY 
16. Lidocaine 5% Ointment 1 Appl TP BID 
17. Bisacodyl ___AILY:PRN constipation 
18. ClonazePAM 0.5 mg PO BID 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 10 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth every twelve (12) 
hours Disp #*40 Tablet Refills:*0 
2.  Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*96 Capsule Refills:*0 
3.  Fentanyl Patch 50 mcg/h TD Q72H 
RX *fentanyl 50 mcg/hour Apply transdermally. Q72H Disp #*5 
Patch Refills:*0 
4.  Acetaminophen 1000 mg PO Q8H  
5.  Acyclovir 400 mg PO Q12H  
6.  Aspirin 81 mg PO DAILY  
7.  Bisacodyl ___AILY:PRN constipation  
8.  Calcitriol 0.5 mcg PO DAILY  
9.  ClonazePAM 0.5 mg PO BID  
10.  DULoxetine 30 mg PO DAILY  
11.  Levothyroxine Sodium 88 mcg PO DAILY  
12.  Lidocaine 5% Ointment 1 Appl TP BID  
13.  Metoprolol Succinate XL 50 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  Omeprazole 40 mg PO BID  
16.  Ondansetron 4 mg PO Q6H:PRN nausea  
17.  PredniSONE 5 mg PO DAILY  
18.  Rosuvastatin Calcium 40 mg PO QPM  
19.  Sucralfate 1 gm PO TID:PRN stomach upset  
20.  Tacrolimus 0.5 mg PO Q12H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Urinary Tract Infection, Clostridium 
difficile infection, Chronic Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

WHY YOU WERE ADMITTED TO THE HOSPITAL:
========================================
- You had a urinary tract infection. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:
===============================================
Your urine cultures grew a bacteria called E coli, and you were 
given antibiotics to treat your infection.
You developed a C diff infection.
Your dose of fentanyl was increased to help with your chronic 
pain. 

WHAT YOU NEED TO DO WHEN YOU GO HOME:
======================================
Please take your antibiotics as prescribed. 
Please go to all of your follow up appointments. 

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___